US04396546
E. Ethyl 5-(m-fluorosulfonylbenzoyl)-2-(2,2,2-trichloroethoxycarbonylamino)-3-thenoate
A mixture of 25 g (0.061 m) of ethyl 3-diethylamino-2-[N-(2,2,2-trichloroethoxycarbonyl)thiocarbamoyl]acrylate, 17.15 g (0.061 m) of m-fluorosulfonylphenacyl bromide, and 125 ml of isopropyl alcohol was heated to reflux for 5 minutes. The reactants dissolved at reflux, and shortly thereafter the product precipitated. The mixture was cooled and the solid collected by filtration. The solid was washed with isopropyl alcohol and then water to give 27.6 g (85 percent) of product, melting point 108° to 110° C.

reactant | ethyl 3-diethylamino-2-[N-(2,2,2-trichloroethoxycarbonyl)thiocarbamoyl]acrylate | 25 g | C(C)N(C=C(C(=O)OCC)C(NC(=O)OCC(Cl)(Cl)Cl)=S)CC | C13H19Cl3N2O4S
reactant | m-fluorosulfonylphenacyl bromide | 17.15 g | FS(=O)(=O)C=1C=C(C(CBr)=O)C=CC1 | C8H6BrFO3S
solvent | isopropyl alcohol | 125 ml | C(C)(C)O | C3H8O
product | Ethyl 5-(m-fluorosulfonylbenzoyl)-2-(2,2,2-trichloroethoxycarbonylamino)-3-thenoate | 27.6 g, 85 percent | FS(=O)(=O)C=1C=C(C(=O)C2=CC(=C(S2)NC(=O)OCC(Cl)(Cl)Cl)C(=O)OCC)C=CC1 | C17H13Cl3FNO7S2
